US06403804B1
Synthesis of Ethyl (R)-4-t-Butoxycarbonylamino-3-Hydroxybutyrate
In a 200 ml autoclave were charged 4.90 g (28.2 mmol) of Ethyl (R)-4-azido-3-hexanoyloxybutyrate, 0.25 g of 5% Pd—C, 6.47 g (29.6 mmol) of (Boc)2O and 5 ml of ethyl acetate, and the mixture was stirred at room temperature under a hydrogen pressure of 10 torr. for 8 hours. The catalyst was removed for concentration to give 5.26 g (75%) of the title compound.

reactant | Ethyl (R)-4-azido-3-hexanoyloxybutyrate | 28.2 mmol, 4.90 g | N(=[N+]=[N-])C[C@@H](CC(=O)OCC)OC(CCCCC)=O | C12H21N3O4
reactant | (Boc)2O | 29.6 mmol, 6.47 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Pd—C | 0.25 g | [Pd] | Pd
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl (R)-4-t-Butoxycarbonylamino-3-Hydroxybutyrate | 5.26 g, 75% | C(C)(C)(C)OC(=O)NC[C@@H](CC(=O)OCC)O | C11H21NO5
